US07902181B2
b) 1-(4-Bromophenyl)-6,6-dimethyl-5,7-dioxaspiro[2.5]octane-4,8-dione
To a cooled solution of 5-(4-bromobenzylidene)-2,2-dimethyl-1,3-dioxane-4,6-dione (1.48 g) in DMF (20 mL) at 0-5° C. was added by dropwise addition a prepared solution of the dimethylsufoxonium-methylide from sodium hydride (60% in oil) (0.209 g), trimethylsulfoxonium iodide (1.152 g) in DMF (20 mL) at room temperature. Upon completion of addition the mixture was stirred at this temperature for a further 20 min. The mixture was then carefully poured onto a stirred mixture of ice/water and ethyl acetate. The crude product was extracted into ethyl acetate, washed well with saturated brine and dried over sodium sulfate. Filtration and evaporation gave the crude product. This sample was then recrystallised from a mixture of ethyl acetate:isohexane (3:1) to give the subtitle compound (0.670 g) as a colourless solid.

reactant | 5-(4-bromobenzylidene)-2,2-dimethyl-1,3-dioxane-4,6-dione | 1.48 g | BrC1=CC=C(C=C2C(OC(OC2=O)(C)C)=O)C=C1 | C13H11BrO4
reactant | sodium hydride | 0.209 g | [H-].[Na+]
reactant | trimethylsulfoxonium iodide | 1.152 g | [I-].C[S+](=O)(C)C
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-(4-Bromophenyl)-6,6-dimethyl-5,7-dioxaspiro[2.5]octane-4,8-dione | 0.670 g | BrC1=CC=C(C=C1)C1CC12C(OC(OC2=O)(C)C)=O | C14H13BrO4
